US09193751B2
Gluconolactone Solution:
A 500 L glass-lined reactor was charged with (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)tetrahydro-2H-pyran-2-one (11.4 kg) and n-heptane (12.2 kg) and the mixture was cooled to −15° C. under nitrogen sparging for 1 h. iPrMgCl.LiCl (0.5 kg, 1.3 M in THF) was added dropwise and the mixture was stirred for 30 min at −15° C.

reactant | (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)tetrahydro-2H-pyran-2-one | 11.4 kg | C[Si](O[C@H]1C(O[C@@H]([C@H]([C@@H]1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)=O)(C)C | C18H42O6Si4
reactant | iPrMgCl | C(C)(C)[Mg]Cl
reactant | LiCl | 1.3 M, 0.5 kg | [Li+].[Cl-]
solvent | n-heptane | 12.2 kg | CCCCCCC | C7H16
product | Gluconolactone | C([C@@H]1[C@H]([C@@H]([C@H](C(=O)O1)O)O)O)O | C6H10O6
